US08013186B2
To a solution of 2(R)-[2,2-difluoro-1(S)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)-ethylamino]-3-tritylsulfanylpropionic acid (0.69 g, 1.04 mmol) in DCM (0.8 ml), TFA (0.322 ml, 4.18 mmol) and triethylsilane (0.332 ml) were added. After stirring 3 h, solvent and excess of TFA were evaporated under vacuum. The residue was dissolved in benzene and evaporated again on rotary evaporator to give 2(R)-[2,2-difluoro-1(S)-(4-fluorophenyl)-2-(4-methylsulfanyl-phenoxy)ethylamino]-3-mercaptopropionic acid. The residue was dissolved in 1N NaOH (4 ml) and the solution was used immediately in the next step.

reactant | 2(R)-[2,2-difluoro-1(S)-(4-fluorophenyl)-2-(4-methylsulfanylphenoxy)-ethylamino]-3-tritylsulfanylpropionic acid | 1.04 mmol, 0.69 g | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(OC1=CC=C(C=C1)SC)F | C37H32F3NO3S2
reactant | TFA | 4.18 mmol, 0.322 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.332 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 0.8 ml | C(Cl)Cl | CH2Cl2
product | 2(R)-[2,2-difluoro-1(S)-(4-fluorophenyl)-2-(4-methylsulfanyl-phenoxy)ethylamino]-3-mercaptopropionic acid | FC([C@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CS)(OC1=CC=C(C=C1)SC)F | C18H18F3NO3S2
